US04284768
1,2-Dihydro-1-methyl-4-(4-methyl-1-piperazinyl)-2-oxo-3-quinolinecarboxylic acid ethyl ester
A stirred mixture of 9.5 g. of 4-chloro-1,2-dihydro-1-methyl-2-oxo-3-quinolinecarboxylic acid ethyl ester, 3.6 g. of N-methylpiperazine and 3.8 g. of sodium carbonate in 50 ml. of ethanol was heated under reflux for 3 hours and filtered. The filtrate was taken to dryness on a rotary evaporator leaving a thick, tarry oily residue. On triturating the oil with diethyl ether, there was obtained 9.4 g. of impure title compound, m.p. 144°-148° C. Recrystallization from ethanol gave 5.5 g. of the title compound, m.p. 154°-156° C.

reactant | 4-chloro-1,2-dihydro-1-methyl-2-oxo-3-quinolinecarboxylic acid ethyl ester | C(C)OC(=O)C=1C(N(C2=CC=CC=C2C1Cl)C)=O | C13H12ClNO3
reactant | N-methylpiperazine | CN1CCNCC1 | C5H12N2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 1,2-Dihydro-1-methyl-4-(4-methyl-1-piperazinyl)-2-oxo-3-quinolinecarboxylic acid ethyl ester | C(C)OC(=O)C=1C(N(C2=CC=CC=C2C1N1CCN(CC1)C)C)=O | C18H23N3O3
